US06900194B1
2-(Benzyloxy)-1-ethanol
Ethylene glycol (742.5 g, 11.96 mol) was added to a solution of sodium hydroxide pellets (475.2 g, 11.88 mol) in 450 ml of water kept at 80° C. Benzyl chloride (302.8 g, 2.39 mol) was then added at 65° C., and the resulting suspension was vigorously stirred at 120° C. overnight. After cooling to room temperature, the mixture was poured into ice-water and extracted five times with diethyl ether. The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The remaining residue was then distilled under vacuum and the relevant fractions (bp. 95-125° C. at 0.1-1 mbar) collected.

reactant | Ethylene glycol | 11.96 mol, 742.5 g | C(CO)O | C2H6O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Benzyl chloride | 2.39 mol, 302.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 450 ml | O | H2O
product | 2-(Benzyloxy)-1-ethanol | C(C1=CC=CC=C1)OCCO | C9H12O2
